US06992087B2
(1R,2S)-1-[(6-cyclopropyl-3-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3-chloro-5-cyclopropyl-2-methylpyrazine and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.95, 1.93, 2.38, 2.61, 3.09, 3.22, 4.75, 5.50, 7.30, 7.77; MS (ESI+) for C17H19N3O m/z 282 (M+H)+.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 3-chloro-5-cyclopropyl-2-methylpyrazine | ClC=1C(=NC=C(N1)C1CC1)C | C8H9ClN2
product | (1R,2S)-1-[(6-cyclopropyl-3-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C1(CC1)C1=CN=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C | C17H19N3O
